US08202865B2
Methyl N-(3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl)glycinate
3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl chloride was prepared following procedure described in example 116 starting from example 92. It was obtained as an oil (1070 mg, 96%). The title compound was prepared following procedure described in example 121 starting from 3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl chloride and glycine methyl ester hydrochloride. The title compound was obtained as a pale yellow powder (97 mg, 86%). 1H NMR: (DMSO-d6, 300 MHz) δ 9.27 (m, 1H), 8.63 (m, 1H), 8.35 (m, 1H), 8.31 (m, 1H), 8.19 (dd, J=1.8 Hz, 7.9 Hz, 1H), 8.12 (m, 1H), 7.76 (t, J=7.9 Hz, 1H), 7.43 (d, J=7.9 Hz, 1H), 7.39-7.26 (m, 3H), 7.15 (m, 1H), 4.23 (d, J=12.9 Hz, 1H), 4.17 (d, J=12.9 Hz, 1H), 4.07 (d, J=5.8 Hz, 1H), 3.68 (s, 3H), 3.25 (s, 3H), 2.04 (s, 3H). LC/MS (Method B): 472.2 (M+H)+ 470.2 (M−H)−. HPLC (Method A) Rt: 4.92 min (purity: 99.2%).

reactant | 3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl chloride | COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=C(C(=O)Cl)C=CC1)C1=C(C=CC=C1)C | C24H19ClN2O3
reactant | glycine methyl ester hydrochloride | Cl.COC(CN)=O
product | Methyl N-(3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl)glycinate | COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=C(C(=O)NCC(=O)OC)C=CC1)C1=C(C=CC=C1)C | C27H25N3O5
